US05714438
To a suspension of 6.6 mg of palladium diacetate (Pd(OAc)2), triethylamine (226 mg), and formic acid (204 mg) in 2 ml THF was added 410 mg of 2-(allyloxycarbonyl)-1-(4-methylpyrimidin-5-yl)pentan-1,3-dione. The mixture was refluxed for 3.5 hours, cooled and partitioned between ethyl acetate and water. The organic layer was dried with magnesium sulfate, filtered and evaporated to yield 290 mg of 1-(4-methylpyrimidin-5-yl)pentan-1,3-dione as an amber liquid.

reactant | triethylamine | 226 mg | C(C)N(CC)CC | C6H15N
reactant | formic acid | 204 mg | C(=O)O | CH2O2
reactant | 2-(allyloxycarbonyl)-1-(4-methylpyrimidin-5-yl)pentan-1,3-dione | 410 mg | C(C=C)OC(=O)C(C(=O)C=1C(=NC=NC1)C)C(CC)=O | C14H16N2O4
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | palladium diacetate | 6.6 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 1-(4-methylpyrimidin-5-yl)pentan-1,3-dione | 290 mg | CC1=NC=NC=C1C(CC(CC)=O)=O | C10H12N2O2
